US05013863
0.5 g of ethyl 3-amino-2-hydroxy-propyl(diethoxymethyl)phosphinate is dissolved in 5 ml of ethanol and this solution is added to a solution of 0.14 g of sodium hydroxide in 2 ml of water. This mixture is then heated to 60° for a period of 3 hours, cooled to room temperature and the solvent evaporated under reduced pressure. The oily residue is passed down an Ion Exchange Resin (DOWEX®50W-X8 H+) using de-ionised water as eluant. Ninhydrin-positive fractions are combined and evaporated to give 3-amino-2-hydroxy-propyl(diethoxymethyl)phosphinic acid, m.p. 214-215° (dec.), 31P-NMR : δ=+30.9 ppm (D2O).

reactant | ethyl 3-amino-2-hydroxy-propyl(diethoxymethyl)phosphinate | 0.5 g | NCC(CP(OCC)(=O)C(OCC)OCC)O | C10H24NO5P
reactant | sodium hydroxide | 0.14 g | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
product | 3-amino-2-hydroxy-propyl(diethoxymethyl)phosphinic acid | NCC(CP(O)(=O)C(OCC)OCC)O | C8H20NO5P
